US08258134B2
A solution of cyclobutanemethanol (4.0 g, 46.4 mmol) in dichloromethane (28 mL) at 25° C. was treated with 4-dimethylaminopyridine (6.23 g, 50.9 mmol). The reaction was then cooled to 0° C. and was treated with para-toluenesulfonylchloride (8.95 g, 46.94 mmol). The reaction was allowed to slowly warm to 25° C. and was allowed to stir overnight. After this time, the reaction was partitioned between water (200 mL) and methylene chloride (2×200 mL). The combined organics were washed with a 1N aqueous hydrochloric acid solution and a saturated aqueous sodium chloride solution (1×200 mL), dried over magnesium sulfate, filtered and concentrated in vacuo to afford toluene-4-sulfonic acid cyclobutylmethyl ester (10.87 g, 97%) as colorless oil which was used without further purification.

reactant | cyclobutanemethanol | 46.4 mmol, 4.0 g | C1(CCC1)CO | C5H10O
reactant | para-toluenesulfonylchloride | 46.94 mmol, 8.95 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 28 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 50.9 mmol, 6.23 g | CN(C1=CC=NC=C1)C | C7H10N2
product | toluene-4-sulfonic acid cyclobutylmethyl ester | 10.87 g, 97% | C1(CCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C12H16O3S
